US07855215B2
Step 26.2: 5-(2-Amino-pyrimidin-4-yloxy)-2,3-dihydro-1H-indole
A solution of 160 mg (0.70 mMol) of 5-(2-amino-pyrimidin-4-yloxy)-1H-indole in 4 ml acetic acid is cooled to 10-15° C. Then 222 mg (3.5 mMol) NaBH3CN are added. After 1 h stirring at rt, 8 g of ice are added. Then the mixture is made basic by addition of 1 N NaOH and extracted three times with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated at rt in vacuo: MS: [M+1]+=229.

reactant | 5-(2-amino-pyrimidin-4-yloxy)-1H-indole | 0.70 mMol, 160 mg | NC1=NC=CC(=N1)OC=1C=C2C=CNC2=CC1 | C12H10N4O
reactant | NaBH3CN | 3.5 mMol, 222 mg | [BH3-]C#N.[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 5-(2-Amino-pyrimidin-4-yloxy)-2,3-dihydro-1H-indole | NC1=NC=CC(=N1)OC=1C=C2CCNC2=CC1 | C12H12N4O
